US04673746
14.0 g of ethyl{[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate is heated in 75% ethanol/H2O (700 ml) with stirring until a solution results. 20 ml of a 50% solution of NaOH is added and a precipitate forms. With additional heating and stirring the precipitate goes into solution and is allowed to stir for 2.5 hours. The ethanol is then evaporated in vacuo and the residue is made acidic with 10% HCl. The precipitated solid is filtered and dried in vacuo to afford {[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetic acid, mp 160°-170° C.

reactant | ethyl{[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetate | 14.0 g | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1Cl)Cl)=O | C17H12Cl2FNO4
reactant | NaOH | [OH-].[Na+]
solvent | ethanol H2O | 700 ml | C(C)O.O
product | {[5,7-dichloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]oxy}acetic acid | ClC=1C(=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C1)Cl)OCC(=O)O | C15H8Cl2FNO4
